US07776869B2
4-Chloro-3-iodo-N-(2-methyl-3-(trifluoromethyl)phenyl)benzamide was synthesized from 2-methyl-3-(trifluromethyl)aniline and 4-chloro-3-iodobenzoyl chloride according to the procedure dscribed in Example 183. 4-Chloro-3-iodo-N-(2-methyl-3-(trifluoromethyl)phenyl)benzamide was obtained as a white solid. MS (M−H+) 437.8; Calculated for C15H10ClF3INO: 439.

reactant | 2-methyl-3-(trifluromethyl)aniline | CC1=C(N)C=CC=C1C(F)(F)F | C8H8F3N
reactant | 4-chloro-3-iodobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)I | C7H3Cl2IO
product | 4-Chloro-3-iodo-N-(2-methyl-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=C(C(=CC=C2)C(F)(F)F)C)C=C1)I | C15H10ClF3INO
